R1 (net48 net20) R=7.0E2
T2 (net19 net41 net41 0) pfet L=0.79E-6 W=1.49E-6
R3 (net50 net66) R=8.4E2
C4 (net41 net68) C=9.2E-10
C5 (vdd! net67) C=0.8E-8
T6 (vdd! net25 net25 0) nfet L=6.38E-6 W=8.73E-6
T7 (net10 net11 net11 0) pfet L=2.60E-6 W=5.08E-6
C8 (net4 net62) C=3.6E-10
T9 (net38 net35 net35 0) nfet L=0.14E-6 W=8.19E-6
T10 (net28 net65 net65 0) pfet L=7.73E-6 W=4.70E-6
C11 (net37 net36) C=5.3E-9
T12 (net41 net31 net31 0) pfet L=8.37E-6 W=5.74E-6
R13 (net66 net33) R=1.9E6
T14 (net15 net19 net19 0) pfet L=3.49E-6 W=3.58E-6
C15 (net54 vdd!) C=6.0E-10
T16 (net10 0 0 0) pfet L=7.16E-6 W=1.00E-6
R17 (net2 net52) R=8.4E3
R18 (net68 net39) R=3.0E5
R19 (net54 net24) R=0.5E4
C20 (net51 net61) C=0.5E-14
T21 (net48 net54 net54 0) nfet L=5.42E-6 W=1.47E-6
C22 (vdd! net2) C=0.6E-9
C23 (0 net27) C=5.3E-9
C24 (net67 net45) C=2.1E-10
C25 (net36 0) C=8.5E-5
R26 (net31 net55) R=0.5E5
T27 (net26 net30 net30 0) nfet L=8.43E-6 W=5.11E-6
T28 (net30 net52 net52 0) nfet L=8.74E-6 W=9.15E-6
T29 (net10 net66 net66 0) pfet L=3.85E-6 W=4.44E-6
T30 (net47 vdd! vdd! 0) pfet L=1.80E-6 W=8.39E-6
C31 (net68 net51) C=0.6E-8
R32 (0 net8) R=8.4E0
T33 (net52 net52 net52 0) nfet L=4.23E-6 W=4.15E-6
T34 (net16 net5 net5 0) pfet L=9.33E-6 W=3.14E-6
T35 (net13 net10 net10 0) nfet L=6.39E-6 W=6.79E-6
R36 (net66 net60) R=4.4E5
T37 (net42 net48 net48 0) pfet L=0.22E-6 W=6.86E-6
C38 (net30 net44) C=0.9E-8
T39 (net22 net16 net16 0) pfet L=6.57E-6 W=8.25E-6
R40 (vdd! net45) R=3.9E6
R41 (net30 vdd!) R=9.1E4
T42 (net53 net18 net18 0) pfet L=1.31E-6 W=7.19E-6
C43 (net65 net68) C=6.6E-10
T44 (net14 net19 net19 0) nfet L=5.98E-6 W=5.75E-6
T45 (0 net57 net57 0) pfet L=9.90E-6 W=8.52E-6
T46 (net8 net51 net51 0) nfet L=0.39E-6 W=5.89E-6
C47 (net34 net30) C=4.8E-10
T48 (vdd! net45 net45 0) pfet L=7.44E-6 W=3.40E-6
R49 (net38 net56) R=0.4E2
R50 (net27 net12) R=9.6E3
T51 (net38 0 0 0) nfet L=1.07E-6 W=5.36E-6
R52 (net34 net39) R=2.1E1
C53 (net50 net11) C=4.7E-11
T54 (net57 net25 net25 0) nfet L=8.71E-6 W=4.66E-6
T55 (net6 net15 net15 0) nfet L=2.32E-6 W=8.87E-6
T56 (net14 net50 net50 0) nfet L=2.91E-6 W=8.63E-6
R57 (net27 net54) R=9.3E4
T58 (net20 net40 net40 0) pfet L=6.71E-6 W=7.07E-6
T59 (net44 net64 net64 0) pfet L=1.13E-6 W=3.66E-6
C60 (net13 net57) C=6.0E-12
R61 (0 net42) R=8.4E1
R62 (net8 net56) R=4.1E2
T63 (net18 net20 net20 0) pfet L=6.46E-6 W=4.46E-6
C64 (net11 net50) C=9.3E-6
T65 (net47 net41 net41 0) nfet L=0.59E-6 W=8.28E-6
C66 (net50 net10) C=3.6E-10
C67 (net23 vdd!) C=6.1E-13
T68 (0 net37 net37 0) nfet L=0.71E-6 W=8.80E-6
T69 (net23 net51 net51 0) pfet L=7.70E-6 W=3.98E-6
C70 (0 net30) C=3.6E-8
T71 (net65 net23 net23 0) pfet L=9.80E-6 W=2.45E-6
T72 (net44 net11 net11 0) nfet L=4.95E-6 W=8.20E-6
R73 (net15 net23) R=6.0E6
C74 (net53 net24) C=5.7E-7
R75 (net48 vdd!) R=7.5E2
R76 (net56 net67) R=4.9E1
T77 (net31 net64 net64 0) nfet L=7.94E-6 W=5.36E-6
T78 (net67 net18 net18 0) pfet L=8.58E-6 W=3.54E-6
T79 (net5 net57 net57 0) nfet L=0.61E-6 W=7.65E-6
R80 (net4 net15) R=7.1E5
C81 (net59 net57) C=8.9E-12
T82 (net39 net39 net39 0) pfet L=4.63E-6 W=3.85E-6
T83 (net41 net25 net25 0) pfet L=0.82E-6 W=3.21E-6
T84 (net13 net66 net66 0) nfet L=6.08E-6 W=8.05E-6
T85 (net11 net60 net60 0) pfet L=3.70E-6 W=5.21E-6
R86 (net19 net36) R=4.8E5
C87 (net48 net25) C=1.7E-13
T88 (net62 vdd! vdd! 0) pfet L=3.56E-6 W=8.05E-6
T89 (net20 net68 net68 0) pfet L=6.82E-6 W=1.88E-6
R90 (vdd! net45) R=7.0E0
T91 (net42 net55 net55 0) nfet L=8.34E-6 W=6.92E-6
R92 (net41 0) R=4.1E4
C93 (net50 net38) C=7.3E-11
T94 (net6 net30 net30 0) nfet L=1.91E-6 W=6.60E-6
C95 (net23 net67) C=7.7E-10
T96 (net31 net58 net58 0) pfet L=2.81E-6 W=5.67E-6
T97 (net35 net9 net9 0) nfet L=5.55E-6 W=8.93E-6
T98 (0 net47 net47 0) pfet L=5.33E-6 W=1.49E-6
T99 (net20 net61 net61 0) pfet L=5.53E-6 W=6.04E-6
T100 (net66 net61 net61 0) pfet L=8.13E-6 W=1.25E-6
C101 (net13 net58) C=5.1E-7
R102 (vdd! net15) R=7.7E0
T103 (net6 net2 net2 0) nfet L=2.11E-6 W=5.97E-6
R104 (net20 net48) R=8.2E5
C105 (net31 net52) C=5.4E-12
C106 (net14 vdd!) C=7.3E-8
R107 (net43 0) R=2.2E1
T108 (net63 vdd! vdd! 0) nfet L=5.04E-6 W=8.58E-6
T109 (net44 net13 net13 0) nfet L=6.26E-6 W=4.84E-6
R110 (net3 vdd!) R=8.2E2
C111 (net14 net40) C=5.6E-13
T112 (net51 net24 net24 0) nfet L=0.39E-6 W=8.95E-6
C113 (net1 net37) C=2.1E-8
C114 (0 net65) C=5.9E-5
T115 (net43 net67 net67 0) pfet L=4.64E-6 W=0.27E-6
C116 (0 net7) C=7.0E-10
R117 (net12 net53) R=6.3E1
T118 (net38 net8 net8 0) pfet L=4.17E-6 W=0.85E-6
C119 (net31 net69) C=3.0E-9
R120 (net61 net1) R=3.0E3
T121 (net27 net28 net28 0) pfet L=8.76E-6 W=6.10E-6
R122 (net25 net58) R=8.5E3
R123 (net9 net62) R=2.2E6
T124 (net44 net6 net6 0) pfet L=0.35E-6 W=3.55E-6
C125 (net53 net35) C=2.0E-11
T126 (net6 vdd! vdd! 0) pfet L=7.71E-6 W=0.11E-6
T127 (net52 net11 net11 0) pfet L=3.03E-6 W=5.23E-6
R128 (net11 net17) R=9.2E2
T129 (net68 net66 net66 0) pfet L=3.64E-6 W=3.15E-6
C130 (net61 net45) C=7.2E-14
T131 (net57 net27 net27 0) pfet L=7.03E-6 W=2.56E-6
T132 (net37 net65 net65 0) pfet L=5.38E-6 W=6.24E-6
C133 (net6 0) C=4.5E-8
T134 (vdd! net14 net14 0) nfet L=0.55E-6 W=5.40E-6
T135 (net53 net65 net65 0) nfet L=4.29E-6 W=2.52E-6
C136 (net21 net27) C=8.4E-11
R137 (net15 net43) R=7.9E5
C138 (net52 net5) C=8.9E-7
T139 (net54 net12 net12 0) pfet L=8.10E-6 W=0.20E-6
R140 (net26 net18) R=2.6E3
C141 (net17 net11) C=9.2E-8
R142 (net33 net52) R=0.7E4
C143 (net18 vdd!) C=4.8E-10
C144 (net59 vdd!) C=7.4E-14
T145 (net7 net6 net6 0) pfet L=4.80E-6 W=4.85E-6
T146 (net47 net50 net50 0) nfet L=0.15E-6 W=4.12E-6
T147 (net39 net28 net28 0) pfet L=5.70E-6 W=3.67E-6
T148 (net39 net9 net9 0) pfet L=6.63E-6 W=3.44E-6
C149 (net54 net61) C=6.4E-10
T150 (net24 net33 net33 0) nfet L=1.51E-6 W=6.36E-6
T151 (net16 net15 net15 0) pfet L=3.67E-6 W=5.86E-6
C152 (net39 net22) C=0.9E-12
T153 (net40 net3 net3 0) pfet L=1.35E-6 W=1.88E-6
C154 (net1 net56) C=0.8E-5
T155 (net40 net53 net53 0) nfet L=6.21E-6 W=1.72E-6
T156 (net1 vdd! vdd! 0) pfet L=7.61E-6 W=2.20E-6
T157 (net4 net68 net68 0) nfet L=2.24E-6 W=7.85E-6
T158 (net21 net29 net29 0) nfet L=7.27E-6 W=1.20E-6
C159 (net40 net26) C=6.9E-11
T160 (net19 net24 net24 0) nfet L=2.71E-6 W=4.43E-6
C161 (net3 net41) C=0.5E-12
T162 (net24 net46 net46 0) pfet L=5.66E-6 W=2.76E-6
R163 (net38 net23) R=1.4E1
T164 (net69 net62 net62 0) pfet L=0.38E-6 W=0.60E-6
C165 (0 net23) C=5.7E-10

