T1 (net21 net18 net18 0) pfet L=2.41E-6 W=6.23E-6
T2 (net20 net21 net21 0) pfet L=9.81E-6 W=2.32E-6
C3 (net3 net5) C=1.9E-5
R4 ( net10 net6)  R=6.4E6
T5 ( net6 net6 0 0)  nfet  L=4.09E-6 W=7.47E-6
T6 ( net18 net6 0 0)  nfet  L=4.09E-6 W=7.47E-6
T7 (net9 net1 net1 0) nfet L=0.60E-6 W=2.11E-6
R8 ( net1 net22)  R=0.6E6
T9 ( net22 net22 net9 vdd!)  pfet  L=2.06E-6 W=4.65E-6
T10 ( net9 net16 vdd! vdd!)  pfet  L=2.06E-6 W=4.65E-6
T11 ( net16 net16 vdd! vdd!)  pfet  L=2.06E-6 W=4.65E-6
T12 ( net20 net22 net16 vdd!)  pfet  L=2.06E-6 W=4.65E-6
T13 (net18 net19 net19 0) nfet L=2.55E-6 W=2.74E-6
T14 (net18 net21 net21 0) nfet L=9.01E-6 W=0.29E-6
C15 (net1 net2) C=5.0E-13
C16 (net8 vdd!) C=7.3E-6
T17 (net15 net17 net17 0) pfet L=1.47E-6 W=5.61E-6
R18 (net5 net8) R=2.0E5
T19 (net15 net13 net13 0) nfet L=5.78E-6 W=2.89E-6
T20 (net1 net12 net12 0) pfet L=3.79E-6 W=3.55E-6
R21 (net18 net10) R=2.0E3
C22 (net3 net5) C=5.3E-6
C23 (net10 net11) C=9.5E-13
C24 (net4 vdd!) C=7.2E-12
C25 (net4 net18) C=8.4E-9
T26 (net5 net1 net1 0) pfet L=9.53E-6 W=8.95E-6
T27 (net3 net20 net20 0) nfet L=8.23E-6 W=8.58E-6
R28 (net13 net7) R=4.7E3
C29 (net17 net18) C=6.0E-13
C30 (net3 net13) C=7.0E-5
T31 (net7 net1 net1 0) nfet L=2.16E-6 W=5.89E-6
R32 (vdd! net5) R=6.7E6
R33 (net2 net21) R=4.5E2
C34 (0 net8) C=1.6E-10
C35 (net12 net10) C=7.9E-7
C36 (net5 net2) C=8.5E-13
C37 (net8 net14) C=7.3E-9
C38 (net4 net21) C=8.0E-5
T39 (vdd! net10 net10 0) nfet L=3.08E-6 W=2.97E-6
T40 (net19 net3 net3 0) nfet L=0.53E-6 W=7.29E-6
C41 (net3 net11) C=9.0E-10
R42 (net7 net11) R=5.0E0
C43 (net14 net10) C=4.5E-5
R44 (net19 net1) R=0.3E3
T45 (net10 net18 net18 0) pfet L=1.83E-6 W=2.43E-6
T46 (net10 net12 net12 0) nfet L=5.87E-6 W=2.90E-6
C47 (net11 net19) C=3.4E-9
T48 (net18 net13 net13 0) nfet L=8.86E-6 W=7.32E-6
C49 (net21 net15) C=2.3E-6
T50 (net10 net7 net7 0) nfet L=9.87E-6 W=2.05E-6
T51 (net21 net17 net17 0) pfet L=9.97E-6 W=4.48E-6
C52 (net10 net21) C=6.9E-8
T53 (net19 net20 net20 0) nfet L=3.59E-6 W=7.11E-6
R54 (net8 net15) R=3.6E2

