T1 (net2 net21 net21 0) nfet L=1.92E-6 W=0.84E-6
R2 ( vdd! net31)  R=4.0E4
T3 ( net31 net26 vdd! vdd!)  pfet  L=3.67E-6 W=1.91E-6
T4 ( net23 net26 vdd! vdd!)  pfet  L=3.67E-6 W=1.91E-6
T5 ( 0 net31 net26 vdd!)  pfet  L=3.67E-6 W=1.91E-6
T6 (net28 net32 net32 0) pfet L=4.46E-6 W=6.67E-6
R7 ( net9 net29)  R=5.0E1
T8 ( net29 net29 net18 vdd!)  pfet  L=2.76E-6 W=7.02E-6
T9 ( net18 net28 vdd! vdd!)  pfet  L=2.76E-6 W=7.02E-6
T10 ( net28 net28 vdd! vdd!)  pfet  L=2.76E-6 W=7.02E-6
T11 ( net3 net29 net28 vdd!)  pfet  L=2.76E-6 W=7.02E-6
C12 (net27 net10) C=9.1E-10
C13 (net4 net30) C=3.5E-5
R14 (net10 net21) R=0.3E2
T15 (net23 net8 net8 0) pfet L=2.05E-6 W=8.16E-6
C16 (net8 net27) C=8.6E-11
T17 (net6 net21 net21 0) pfet L=6.95E-6 W=7.19E-6
R18 (net6 0) R=1.8E5
T19 (net27 net6 net6 0) nfet L=3.51E-6 W=1.00E-6
R20 (net33 vdd!) R=1.4E0
T21 (net30 net21 net21 0) nfet L=0.85E-6 W=5.21E-6
T22 (net30 net33 net33 0) nfet L=8.68E-6 W=8.34E-6
R23 (net5 net13) R=3.8E0
T24 (net7 net16 net16 0) pfet L=9.97E-6 W=5.42E-6
R25 (net8 net11) R=2.7E0
R26 (net2 net22) R=7.1E4
C27 (net9 net11) C=0.5E-8
C28 (net21 net3) C=1.4E-5
R29 (net12 net32) R=9.8E5
R30 (net17 net7) R=1.6E5
C31 (net21 net3) C=0.5E-6
T32 (net16 net22 net22 0) pfet L=7.13E-6 W=7.55E-6
R33 (0 net7) R=6.6E2
R34 (net33 net16) R=1.8E6
T35 (vdd! net5 net5 0) nfet L=8.71E-6 W=2.25E-6
T36 (vdd! net5 net5 0) nfet L=6.60E-6 W=7.67E-6
R37 (net20 net4) R=5.2E0
R38 (net6 net15) R=4.7E5
R39 (net2 net19) R=2.3E4
C40 (net25 net3) C=6.7E-9
C41 (net25 net8) C=8.3E-6
R42 (net32 0) R=1.9E1
C43 (net11 net19) C=7.1E-10
T44 (net23 0 0 0) nfet L=5.67E-6 W=1.57E-6
R45 (net14 net33) R=5.3E6
C46 (net1 net23) C=5.4E-5
C47 (net5 net20) C=7.3E-9
T48 (net16 net9 net9 0) pfet L=8.15E-6 W=9.29E-6
T49 (net27 net8 net8 0) pfet L=3.67E-6 W=3.16E-6
R50 (net5 net12) R=8.0E4
T51 (net16 net12 net12 0) pfet L=2.58E-6 W=7.86E-6
T52 (net23 net1 net1 0) nfet L=5.10E-6 W=8.00E-6
T53 (net7 net10 net10 0) pfet L=7.81E-6 W=5.19E-6
C54 (net12 net13) C=6.4E-14
T55 (net25 net9 net9 0) pfet L=0.45E-6 W=3.90E-6
T56 (net33 net9 net9 0) nfet L=3.15E-6 W=5.99E-6
T57 (net13 net14 net14 0) pfet L=5.43E-6 W=6.41E-6
T58 (net12 vdd! vdd! 0) pfet L=4.77E-6 W=4.89E-6
T59 (net9 net6 net6 0) pfet L=4.59E-6 W=1.52E-6
T60 (net17 net15 net15 0) nfet L=3.29E-6 W=5.32E-6
T61 (net14 net4 net4 0) nfet L=3.60E-6 W=1.83E-6
T62 (net1 net32 net32 0) pfet L=9.08E-6 W=4.29E-6
T63 (net21 net19 net19 0) pfet L=1.86E-6 W=6.63E-6
R64 (net17 vdd!) R=0.1E4
R65 (net8 net9) R=2.0E4
T66 (net5 net11 net11 0) nfet L=9.80E-6 W=2.20E-6
R67 (net32 net21) R=5.1E1
T68 (net14 net5 net5 0) nfet L=1.57E-6 W=2.31E-6
T69 (net8 net3 net3 0) pfet L=7.82E-6 W=8.66E-6
T70 (0 net12 net12 0) pfet L=6.29E-6 W=3.92E-6
T71 (vdd! net22 net22 0) nfet L=1.23E-6 W=2.79E-6
T72 (net30 net17 net17 0) pfet L=4.65E-6 W=8.19E-6
T73 (net22 vdd! vdd! 0) pfet L=2.19E-6 W=9.98E-6
T74 (net25 net13 net13 0) nfet L=6.33E-6 W=8.88E-6
T75 (net17 net3 net3 0) nfet L=9.64E-6 W=6.47E-6
R76 (net5 net23) R=1.4E6
C77 (net27 net9) C=5.6E-5
T78 (0 net12 net12 0) nfet L=0.25E-6 W=9.16E-6
R79 (net32 net5) R=4.7E4
T80 (net22 net11 net11 0) nfet L=8.02E-6 W=0.15E-6
R81 (net4 net8) R=4.9E1
C82 (vdd! net13) C=3.6E-12
T83 (0 net24 net24 0) nfet L=5.17E-6 W=6.33E-6
R84 (net17 net7) R=3.7E4
R85 (net2 net13) R=6.5E4
T86 (net2 net4 net4 0) nfet L=3.17E-6 W=1.94E-6
R87 (net23 net7) R=4.9E6
R88 (net1 net13) R=5.7E1
T89 (net16 net20 net20 0) pfet L=1.95E-6 W=0.90E-6
T90 (0 net13 net13 0) pfet L=2.55E-6 W=4.72E-6
C91 (net10 net2) C=4.0E-10
T92 (net22 net20 net20 0) nfet L=9.19E-6 W=2.61E-6
C93 (net19 vdd!) C=5.8E-13
C94 (net17 net12) C=0.8E-9
C95 (net20 net2) C=0.2E-9
T96 (vdd! 0 0 0) nfet L=8.94E-6 W=0.69E-6

