R1 ( net18 net17)  R=6.4E4
T2 ( net17 net17 0 0)  nfet  L=4.57E-6 W=1.34E-6
T3 ( vdd! net17 0 0)  nfet  L=4.57E-6 W=1.34E-6
R4 (net1 net8) R=6.3E2
T5 (net5 net4 net4 0) nfet L=7.21E-6 W=2.62E-6
R6 ( net14 net20)  R=2.7E1
T7 ( net20 net20 0 0)  nfet  L=7.83E-6 W=9.85E-6
T8 ( net5 net20 0 0)  nfet  L=7.83E-6 W=9.85E-6
R9 (net1 net7) R=9.6E1
T10 (net4 net6 net6 0) pfet L=6.51E-6 W=7.99E-6
R11 (net22 net21) R=2.3E1
R12 (0 net18) R=4.2E5
C13 (net18 net16) C=9.3E-7
T14 (net11 net5 net5 0) nfet L=3.70E-6 W=1.10E-6
C15 (net21 net18) C=2.4E-9
T16 (net3 net10 net10 0) nfet L=1.63E-6 W=7.45E-6
C17 (vdd! net19) C=0.5E-12
R18 (net8 net4) R=2.2E4
T19 (net10 net18 net18 0) pfet L=9.68E-6 W=5.21E-6
C20 (vdd! net22) C=1.3E-6
T21 (net19 net2 net2 0) pfet L=9.88E-6 W=1.68E-6
R22 (net14 net16) R=3.3E5
T23 (net1 net11 net11 0) nfet L=4.71E-6 W=2.35E-6
T24 (net22 net7 net7 0) pfet L=2.69E-6 W=8.85E-6
T25 (net4 net18 net18 0) nfet L=4.74E-6 W=8.98E-6
C26 (net12 net22) C=6.8E-5
C27 (0 net19) C=6.3E-14
R28 (net6 net8) R=2.9E6
C29 (net11 net8) C=3.7E-5
T30 (net22 net7 net7 0) nfet L=6.89E-6 W=1.55E-6
T31 (net4 net2 net2 0) pfet L=7.72E-6 W=2.71E-6
T32 (net11 net9 net9 0) nfet L=3.23E-6 W=1.18E-6
T33 (net13 net11 net11 0) pfet L=4.61E-6 W=9.32E-6
T34 (vdd! net3 net3 0) nfet L=5.12E-6 W=0.84E-6
T35 (net21 net8 net8 0) nfet L=3.10E-6 W=7.90E-6
R36 (net22 net1) R=8.3E4
T37 (net22 net14 net14 0) nfet L=0.88E-6 W=9.87E-6
T38 (net4 net22 net22 0) pfet L=2.10E-6 W=6.25E-6
T39 (net19 net9 net9 0) nfet L=7.62E-6 W=6.44E-6
T40 (net8 net15 net15 0) nfet L=0.90E-6 W=2.99E-6
C41 (net16 net13) C=5.2E-6
T42 (vdd! net5 net5 0) pfet L=6.37E-6 W=1.86E-6
R43 (net15 net14) R=2.9E1
T44 (net22 net22 net22 0) nfet L=3.05E-6 W=4.78E-6
R45 (net8 net9) R=2.6E3
T46 (net11 net10 net10 0) pfet L=0.14E-6 W=6.92E-6
R47 (net8 net18) R=1.9E0
R48 (net13 0) R=1.3E6
C49 (net7 net18) C=9.2E-11
R50 (net13 net4) R=0.9E5
T51 (net21 net18 net18 0) pfet L=9.53E-6 W=2.91E-6
T52 (net19 net7 net7 0) pfet L=6.65E-6 W=3.07E-6
R53 (net6 net8) R=8.5E1
C54 (net6 net3) C=1.3E-14
R55 (net2 net11) R=7.8E2
T56 (net13 net21 net21 0) nfet L=7.16E-6 W=7.49E-6
R57 (net8 net3) R=7.9E6
T58 (net12 net12 net12 0) pfet L=5.33E-6 W=7.51E-6
T59 (net22 vdd! vdd! 0) pfet L=1.76E-6 W=5.11E-6
T60 (net4 net11 net11 0) pfet L=2.18E-6 W=3.37E-6
R61 (net19 net5) R=1.9E6
T62 (net7 net19 net19 0) nfet L=9.01E-6 W=2.98E-6
R63 (net2 net6) R=7.6E5
R64 (net8 net13) R=4.7E2

