R1 (net4 0) R=8.8E1
R2 ( net15 net9)  R=8.2E4
T3 ( net9 net9 vdd! vdd!)  pfet  L=1.52E-6 W=4.70E-6
T4 ( net4 net9 vdd! vdd!)  pfet  L=1.52E-6 W=4.70E-6
T5 (vdd! net5 net5 0) pfet L=4.68E-6 W=6.75E-6
T6 ( net15 net15 vdd! vdd!)  pfet  L=4.44E-6 W=3.19E-6
T7 ( net14 net15 vdd! vdd!)  pfet  L=4.44E-6 W=3.19E-6
R8 ( net14 net12)  R=5.0E1
T9 (net2 net8 net8 0) pfet L=3.77E-6 W=5.95E-6
T10 (net15 net10 net10 0) nfet L=2.80E-6 W=8.02E-6
R11 (net11 net6) R=8.0E6
T12 (net4 vdd! vdd! 0) nfet L=0.73E-6 W=8.21E-6
T13 (net12 vdd! vdd! 0) nfet L=5.98E-6 W=6.48E-6
R14 (net8 net5) R=0.3E6
T15 (net6 net2 net2 0) nfet L=1.16E-6 W=1.04E-6
T16 (net1 net5 net5 0) pfet L=3.68E-6 W=5.82E-6
R17 (net12 net7) R=6.3E6
T18 (net8 net8 net8 0) nfet L=6.45E-6 W=5.24E-6
R19 (vdd! net5) R=8.2E4
R20 (net11 net3) R=6.8E5
C21 (net15 net6) C=4.1E-12
C22 (net7 net6) C=4.7E-7
T23 (net3 net3 net3 0) pfet L=7.11E-6 W=1.72E-6
T24 (net8 net3 net3 0) nfet L=3.41E-6 W=8.98E-6
T25 (net1 net4 net4 0) nfet L=8.46E-6 W=7.37E-6

