T1 (net9 net4 net4 0) nfet L=8.58E-6 W=6.20E-6
T2 (net9 vdd! vdd! 0) nfet L=4.00E-6 W=3.95E-6
R3 ( vdd! net3)  R=7.9E0
T4 ( net3 net3 net2 vdd!)  pfet  L=3.53E-6 W=3.16E-6
T5 ( net2 net7 vdd! vdd!)  pfet  L=3.53E-6 W=3.16E-6
T6 ( net7 net7 vdd! vdd!)  pfet  L=3.53E-6 W=3.16E-6
T7 ( net8 net3 net7 vdd!)  pfet  L=3.53E-6 W=3.16E-6
T8 (net5 net9 net9 0) pfet L=5.44E-6 W=3.43E-6
R9 (net1 net5) R=4.1E1
R10 (net9 net8) R=3.5E1
T11 (net4 net9 net9 0) pfet L=1.66E-6 W=4.69E-6
T12 (net6 net10 net10 0) pfet L=3.91E-6 W=7.63E-6
R13 ( vdd! net8)  R=9.8E5
T14 ( net8 net8 vdd! vdd!)  pfet  L=9.47E-6 W=4.78E-6
T15 ( net4 net8 vdd! vdd!)  pfet  L=9.47E-6 W=4.78E-6
C16 (net10 net4) C=2.4E-11
T17 (net10 net9 net9 0) pfet L=0.61E-6 W=7.79E-6
C18 (net9 net4) C=4.2E-10
T19 (0 net10 net10 0) nfet L=1.49E-6 W=3.99E-6
C20 (net6 net1) C=1.8E-13
R21 (net1 net10) R=3.9E4
T22 (net5 0 0 0) nfet L=8.20E-6 W=1.18E-6
T23 (net6 net6 net6 0) nfet L=8.40E-6 W=3.88E-6
T24 (net10 net6 net6 0) nfet L=4.53E-6 W=5.96E-6
C25 (net9 net4) C=9.8E-11
R26 (net9 vdd!) R=8.2E1
T27 (net1 net6 net6 0) pfet L=1.83E-6 W=4.11E-6
T28 (net5 net6 net6 0) nfet L=6.85E-6 W=6.64E-6
T29 (net5 net9 net9 0) pfet L=0.31E-6 W=5.19E-6
R30 (net5 vdd!) R=8.5E1
R31 (net10 net9) R=0.3E2
C32 (net10 net4) C=1.9E-11
R33 (net9 net5) R=9.3E6
R34 (net1 net5) R=6.0E4
T35 (net5 net4 net4 0) nfet L=2.32E-6 W=6.43E-6
R36 (net1 net9) R=4.9E0
C37 (net6 0) C=1.0E-7
R38 (net6 net10) R=9.1E4
R39 (net4 net6) R=0.9E4
T40 (net1 net6 net6 0) pfet L=9.79E-6 W=5.74E-6
R41 (net10 vdd!) R=0.5E3
T42 (net9 net1 net1 0) nfet L=7.05E-6 W=4.36E-6
T43 (net5 net6 net6 0) nfet L=8.20E-6 W=3.39E-6
T44 (vdd! net1 net1 0) nfet L=2.17E-6 W=2.49E-6
T45 (net5 net9 net9 0) nfet L=3.56E-6 W=6.65E-6
C46 (net6 net10) C=3.5E-13
T47 (net9 net6 net6 0) nfet L=7.13E-6 W=9.87E-6
C48 (net4 0) C=9.4E-6
T49 (net6 net6 net6 0) pfet L=4.13E-6 W=7.84E-6
R50 (net9 net6) R=0.5E3
C51 (net6 net9) C=8.7E-11
T52 (net1 net1 net1 0) nfet L=7.70E-6 W=9.26E-6
C53 (net6 0) C=2.6E-13
R54 (vdd! net5) R=7.4E3
C55 (net6 net1) C=8.1E-13
R56 (net6 vdd!) R=0.3E2
R57 (net10 0) R=7.5E5
C58 (net5 net6) C=8.3E-7
C59 (net5 0) C=9.5E-6
R60 (net5 net10) R=2.1E0
T61 (net5 net6 net6 0) pfet L=9.68E-6 W=5.38E-6
C62 (net4 net10) C=8.7E-8
T63 (net10 net5 net5 0) pfet L=1.04E-6 W=2.78E-6
R64 (net10 net9) R=5.9E4
R65 (vdd! net9) R=6.2E2
R66 (net9 net5) R=6.1E4
T67 (net1 net4 net4 0) pfet L=4.33E-6 W=9.50E-6
T68 (net6 net5 net5 0) pfet L=1.60E-6 W=5.04E-6
C69 (net5 net4) C=5.6E-8
T70 (net5 net1 net1 0) nfet L=0.40E-6 W=5.16E-6
C71 (net5 vdd!) C=7.2E-11
T72 (net10 net4 net4 0) pfet L=9.16E-6 W=8.70E-6

