T1 (net30 net5 net5 0) nfet L=9.76E-6 W=8.73E-6
T2 (net25 net10 net10 0) pfet L=0.71E-6 W=3.44E-6
R3 (net21 net23) R=2.9E5
T4 (net7 net1 net1 0) nfet L=5.93E-6 W=2.86E-6
T5 (net26 net3 net3 0) pfet L=4.50E-6 W=8.62E-6
R6 ( net18 net7)  R=1.9E1
T7 ( net7 net10 vdd! vdd!)  pfet  L=8.72E-6 W=1.37E-6
T8 ( net16 net10 vdd! vdd!)  pfet  L=8.72E-6 W=1.37E-6
T9 ( net28 net7 net16 vdd!)  pfet  L=8.72E-6 W=1.37E-6
C10 (net21 net1) C=1.9E-12
R11 ( net25 net12)  R=7.7E1
T12 ( net12 net12 net28 0)  nfet  L=9.53E-6 W=9.99E-6
T13 ( net28 net29 0 0)  nfet  L=9.53E-6 W=9.99E-6
T14 ( net29 net29 0 0)  nfet  L=9.53E-6 W=9.99E-6
T15 ( vdd! net12 net29 0)  nfet  L=9.53E-6 W=9.99E-6
T16 (net24 net4 net4 0) pfet L=3.91E-6 W=9.96E-6
T17 (net6 vdd! vdd! 0) nfet L=2.21E-6 W=4.05E-6
C18 (net5 net8) C=7.7E-7
T19 (net6 net17 net17 0) nfet L=9.67E-6 W=2.15E-6
T20 (vdd! net14 net14 0) nfet L=3.91E-6 W=1.22E-6
R21 (vdd! net9) R=7.5E6
R22 (net4 0) R=2.4E2
C23 (net24 0) C=8.7E-5
C24 (net9 vdd!) C=0.3E-14
T25 (net20 net14 net14 0) nfet L=1.65E-6 W=5.25E-6
T26 (net27 net6 net6 0) nfet L=3.00E-6 W=3.10E-6
T27 (net1 net5 net5 0) pfet L=3.98E-6 W=7.42E-6
R28 (net17 net19) R=2.5E5
T29 (net21 net13 net13 0) nfet L=5.48E-6 W=3.20E-6
C30 (vdd! net27) C=1.6E-13
C31 (vdd! net25) C=8.4E-6
C32 (net25 net13) C=3.7E-8
T33 (vdd! net18 net18 0) pfet L=2.36E-6 W=3.19E-6
C34 (net27 vdd!) C=0.5E-7
R35 (net11 net5) R=3.8E4
R36 (net27 net20) R=5.5E2
C37 (net27 net6) C=3.7E-12
R38 (net9 net13) R=0.8E6
C39 (net25 net17) C=8.9E-5
T40 (net24 net6 net6 0) nfet L=3.69E-6 W=4.64E-6
T41 (net11 net2 net2 0) pfet L=6.56E-6 W=6.67E-6
R42 (net3 net19) R=5.9E5
R43 (net27 net17) R=5.1E3
T44 (net11 net11 net11 0) pfet L=9.36E-6 W=4.41E-6
C45 (net15 net4) C=6.7E-13
T46 (net6 net30 net30 0) pfet L=7.91E-6 W=0.78E-6

