T1 (net4 net9 net9 0) pfet L=0.93E-6 W=3.71E-6
T2 (net1 net5 net5 0) pfet L=1.84E-6 W=6.89E-6
C3 (net3 net9) C=2.0E-9
R4 ( net2 net7)  R=6.1E3
T5 ( net7 net7 net9 0)  nfet  L=7.04E-6 W=8.05E-6
T6 ( net9 net3 0 0)  nfet  L=7.04E-6 W=8.05E-6
T7 ( net3 net3 0 0)  nfet  L=7.04E-6 W=8.05E-6
T8 ( net6 net7 net3 0)  nfet  L=7.04E-6 W=8.05E-6
R9 (net5 net4) R=4.5E0
R10 ( net11 net1)  R=4.5E5
T11 ( net1 net5 0 0)  nfet  L=0.35E-6 W=4.29E-6
T12 ( net10 net5 0 0)  nfet  L=0.35E-6 W=4.29E-6
T13 ( net1 net1 net10 0)  nfet  L=0.35E-6 W=4.29E-6
T14 (net12 net11 net11 0) pfet L=6.42E-6 W=3.37E-6
T15 (net2 net6 net6 0) nfet L=6.09E-6 W=2.54E-6
C16 (net8 net11) C=8.9E-8
T17 (net12 net11 net11 0) nfet L=5.57E-6 W=1.02E-6
R18 (net12 0) R=7.2E0
T19 (net6 net6 net6 0) pfet L=8.94E-6 W=7.60E-6
R20 (net2 net12) R=2.1E0
R21 (net2 0) R=0.7E3
C22 (net11 net4) C=9.6E-14
C23 (net4 net11) C=0.2E-5
T24 (net4 net4 net4 0) pfet L=2.17E-6 W=9.08E-6
C25 (net12 net8) C=9.5E-6
T26 (0 net8 net8 0) nfet L=9.47E-6 W=0.48E-6
R27 (net8 net11) R=7.4E1
T28 (0 net4 net4 0) pfet L=1.80E-6 W=7.55E-6
C29 (net11 net2) C=0.5E-11
R30 (net6 net11) R=4.3E4
T31 (vdd! net6 net6 0) pfet L=4.89E-6 W=1.01E-6
T32 (net6 net4 net4 0) pfet L=2.11E-6 W=2.03E-6
T33 (net8 net8 net8 0) pfet L=3.82E-6 W=9.94E-6
R34 (net11 vdd!) R=3.6E2
T35 (net4 net8 net8 0) pfet L=4.04E-6 W=1.37E-6
R36 (net6 net4) R=8.0E6
R37 (net2 0) R=5.2E2
T38 (net12 net6 net6 0) pfet L=3.90E-6 W=3.78E-6
R39 (net4 net11) R=9.5E6
T40 (net2 net12 net12 0) pfet L=1.72E-6 W=4.14E-6
C41 (net12 0) C=9.1E-9
C42 (net8 net6) C=4.7E-5
C43 (net2 net8) C=3.9E-11
R44 (net8 net6) R=9.5E2
T45 (net8 net6 net6 0) nfet L=0.34E-6 W=1.27E-6
T46 (0 net12 net12 0) nfet L=7.27E-6 W=6.23E-6
R47 (0 net4) R=7.4E2
C48 (net11 net2) C=6.5E-7
T49 (net2 net4 net4 0) nfet L=7.10E-6 W=1.49E-6
T50 (0 net6 net6 0) pfet L=3.02E-6 W=4.59E-6
T51 (net8 net11 net11 0) pfet L=2.33E-6 W=2.81E-6
C52 (net6 net12) C=6.5E-7
T53 (net12 net6 net6 0) nfet L=4.62E-6 W=3.29E-6
C54 (net11 net6) C=7.1E-8
R55 (net4 net12) R=6.7E4
R56 (net11 net12) R=1.3E3
R57 (net8 net6) R=8.4E6
C58 (net6 vdd!) C=7.8E-11
T59 (net8 net6 net6 0) nfet L=6.89E-6 W=4.61E-6
T60 (net8 net6 net6 0) nfet L=6.86E-6 W=1.46E-6
T61 (net4 net4 net4 0) nfet L=4.88E-6 W=1.37E-6
C62 (net2 net4) C=4.9E-13
T63 (net12 net12 net12 0) pfet L=2.77E-6 W=4.68E-6
T64 (net6 net2 net2 0) nfet L=8.18E-6 W=4.60E-6
C65 (net12 net2) C=6.9E-9
C66 (net6 net11) C=4.4E-11
T67 (net11 net8 net8 0) nfet L=6.75E-6 W=2.11E-6
T68 (net12 net11 net11 0) nfet L=1.00E-6 W=7.28E-6
T69 (net8 net6 net6 0) pfet L=4.28E-6 W=0.58E-6
C70 (0 net8) C=4.0E-13
C71 (net11 net4) C=5.6E-12
C72 (net8 net4) C=8.4E-7
C73 (net4 net6) C=1.8E-5
R74 (net2 net6) R=8.0E6
R75 (net2 net4) R=8.6E1
T76 (net12 net4 net4 0) nfet L=5.04E-6 W=8.01E-6
C77 (net8 net12) C=9.6E-9
C78 (net11 net8) C=5.4E-11
C79 (net2 net8) C=1.2E-8
R80 (net12 0) R=4.7E0
C81 (net2 net12) C=2.9E-8
T82 (net12 net11 net11 0) pfet L=9.90E-6 W=7.99E-6
T83 (net11 net6 net6 0) nfet L=1.04E-6 W=5.83E-6
C84 (net6 net4) C=7.9E-13
C85 (net11 net2) C=4.1E-11
C86 (net8 net12) C=7.9E-13
R87 (net2 net8) R=0.6E3
T88 (net11 net4 net4 0) nfet L=9.45E-6 W=5.42E-6
T89 (net11 net2 net2 0) pfet L=4.05E-6 W=0.12E-6
T90 (net2 net6 net6 0) nfet L=1.39E-6 W=4.76E-6
R91 (net11 net12) R=6.0E6
T92 (net8 net11 net11 0) nfet L=8.92E-6 W=9.98E-6
C93 (net12 net11) C=7.1E-14
C94 (net6 net8) C=2.1E-14
R95 (net4 net6) R=6.0E4
T96 (net2 net2 net2 0) pfet L=1.65E-6 W=2.77E-6
T97 (net6 net4 net4 0) pfet L=9.24E-6 W=6.74E-6
C98 (net6 net2) C=5.9E-6
T99 (net6 net11 net11 0) pfet L=7.39E-6 W=1.45E-6
T100 (net12 net11 net11 0) pfet L=1.28E-6 W=3.27E-6
T101 (net12 net2 net2 0) pfet L=1.33E-6 W=5.06E-6
C102 (net6 vdd!) C=3.3E-11

